US04293702
4-chlorobenzothiazolone (9.28 g, 0.05 mole) was dissolved in a solution of sodium hydroxide (3.19 g, 0.075 mole) in water (220 ml), and benzyltriethylammonium chloride (0.34 g, 0.0015 mole) and toluene (80 ml) were added thereto. Dimethyl sulfate (9.40 g, 0.075 mole) was added dropwise thereto at room temperature, and the mixture was stirred at room temperature for 4 hours, followed by phase-separation. The toluene layer was washed once with water, and the solvent was removed under reduced pressure to obtain 8.97 g of 4-chloro-N-methylbenzothiazolone as pale yellow crystals. Yield 90.3%, purity 96.7%, m.p. 129°-131° C.

reactant | 4-chlorobenzothiazolone | 0.05 mole, 9.28 g | ClC1=CC=CC2=C1N=CS2=O | C7H4ClNOS
reactant | sodium hydroxide | 0.075 mole, 3.19 g | [OH-].[Na+]
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
reactant | Dimethyl sulfate | 0.075 mole, 9.40 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 220 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 0.0015 mole, 0.34 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4-chloro-N-methylbenzothiazolone | 8.97 g, Yield 90.3% | ClC1=CC=CC2=C1N(CS2=O)C | C8H8ClNOS
